US07550478B2
Step 1: N-methyl-N-(tetrahydrofuran-3-yl)sulfamide
A flask was charged with N-tert-butoxycarbonyl-N-[4-(dimethylazaniumylidene)-1,4-dihydropyridin-1-ylsulfonyl]azanide (2.19 g, 7.27 mmol), N-methyltetrahydrofuran-3-aminium chloride (1.00 g, 7.27 mmol) and triethyl amine (1.01 mL, 7.27 mmol) in 10 mL of CH2Cl2. After 2 h, the solution was concentrated in vacuo and purified by flash column chromatography (10-100% EtOAc/hexanes) to afford tert-butyl {[methyl(tetrahydrofuran-3-yl)amino]sulfonyl}carbamate. tert-butyl {[methyl(tetrahydrofuran-3-yl)amino]sulfonyl}carbamate (1.47 g, 5.23 mmol) was dissolved in 70 mL of CH2Cl2 and 45 mL of trifluoroacetic acid. After 1 h the solution was concentrated in vacuo, diluted in CH2Cl2, washed with saturated aqueous NaHCO3 and brine, then dried over Na2SO4. The solution was concentrated in vacuo to afford the title compound. 1H NMR (600 MHz, DMSO-d6) δ 4.25-4.31 (m, 1H); 3.79-3.84 (m, 1H); 3.58-3.66 (m, 2H); 3.47-3.52 (m, 1H); 2.56 (s, 3H), 2.04-2.10 (m, 1H); 1.81-1.88 (m, 1H).

reactant | tert-butyl {[methyl(tetrahydrofuran-3-yl)amino]sulfonyl}carbamate | 5.23 mmol, 1.47 g | CN(S(=O)(=O)NC(OC(C)(C)C)=O)C1COCC1 | C10H20N2O5S
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 45 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-methyl-N-(tetrahydrofuran-3-yl)sulfamide | CN(S(=O)(=O)N)C1COCC1 | C5H12N2O3S
